US08202865B2
Intermediate 46: methyl 5-[amino(hydroxyimino)methyl]-2-hydroxybenzoate
To a suspension of methyl 5-cyano-2-hydroxy-benzoate (ASTATECH; 63806; 1 g; 5.64 mmol; 1 eq.) in EtOH (10 mL) was added hydroxylamine (50% in water) (1.69 mL; 28.22 mmol; 5 eq.). The reaction mixture was stirred at 60° C. for 30 min. While cooling to RT a white precipitate was formed. Solvents were removed to dryness and the white solids were washed with EtOH to afford title compound pure at 66% as a white powder. 1H NMR (DMSO-d6, 300 MHz) δ 8.12 (d, J=2.2 Hz, 1H), 7.81 (dd, J=8.4, 2.2 Hz, 1H), 6.99 (d, J=8.7 Hz, 1H), 5.82 (br s, 2H), 5.69 (br s, 1H), 3.91 (s, 3H). LC/MS (Method A): 210.8 (M+H)+.

reactant | methyl 5-cyano-2-hydroxy-benzoate | 5.64 mmol, 1 g, 1 eq. | C(#N)C=1C=CC(=C(C(=O)OC)C1)O | C9H7NO3
reactant | hydroxylamine | 28.22 mmol, 1.69 mL, 5 eq. | NO | H3NO
solvent | EtOH | 10 mL | CCO | C2H6O
product | methyl 5-[amino(hydroxyimino)methyl]-2-hydroxybenzoate | NC(C=1C=CC(=C(C(=O)OC)C1)O)=NO | C9H10N2O4
